US09126931B2
3-Bromo-8-((R)-2,3-dihydroxy-propoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to the THF (0.15 mL)-MeOH (0.1 mL) solution of 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound T24-1, 15.5 mg, 0.0320 mmol), 0.5 M aqueous solution of sulfuric acid (128 μL, 0.0640 mmol) was added at room temperature. The reaction mixture was stirred at ambient temperature of 55° C. for 2 hr, cooled to room temperature, and then added with diethyl ether and subsequently with sodium hydrogen carbonate (11 mg). The mixture was extracted twice with diethyl ether/ethyl acetate, and the organic layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure to obtain the title compound (white solid, 11.9 mg, 84%).

reactant | THF | 0.15 mL | C1CCOC1 | C4H8O
reactant | 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.0320 mmol, 15.5 mg | BrC1=CC=C2C=3C(C4=C(C(C3N(C2=C1)C)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C25H26BrNO4
reactant | sulfuric acid | 0.0640 mmol, 128 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | 11 mg | C(O)([O-])=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | MeOH | 0.1 mL | CO | CH4O
product | 3-Bromo-8-((R)-2,3-dihydroxy-propoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 11.9 mg, 84% | BrC1=CC=C2C=3C(C4=C(C(C3N(C2=C1)C)(C)C)C=C(C=C4)OC[C@@H](CO)O)=O | C22H22BrNO4
